US06964961B2
B. [7-(2-Methyl-1H-indol-5-ylamino)-thieno[3,2-b]pyridin-2-yl]-morpholin-4-yl-methanone
The title compound was prepared from 2-methyl-1H-indol-5-ylamine and 7-chloro-thieno[3,2-b]pyridin-2-yl-morpholin-4-yl-methanone by a procedure analogous to Example 1C. MS: 393 (MH+), HPLC Rf: 3.90 min.; HPLC purity 96%.

reactant | 2-methyl-1H-indol-5-ylamine | CC=1NC2=CC=C(C=C2C1)N | C9H10N2
reactant | 7-chloro-thieno[3,2-b]pyridin-2-yl-morpholin-4-yl-methanone | ClC1=C2C(=NC=C1)C=C(S2)C(=O)N2CCOCC2 | C12H11ClN2O2S
product | [7-(2-Methyl-1H-indol-5-ylamino)-thieno[3,2-b]pyridin-2-yl]-morpholin-4-yl-methanone | CC=1NC2=CC=C(C=C2C1)NC1=C2C(=NC=C1)C=C(S2)C(=O)N2CCOCC2 | C21H20N4O2S
